US05312916
reacting the 6-(phthalimidomethyl)-6,11-dihydro-5H-dibenz[b,e]azepine with hydrazine, to produce 6-aminomethyl-6,11-dihydro-5H-dibenz[b,e]azepine;

reactant | 6-(phthalimidomethyl)-6,11-dihydro-5H-dibenz[b,e]azepine | C1(C=2C(C(N1CC1C3=C(CC4=C(N1)C=CC=C4)C=CC=C3)=O)=CC=CC2)=O | C23H18N2O2
reactant | hydrazine | NN | H4N2
product | 6-aminomethyl-6,11-dihydro-5H-dibenz[b,e]azepine | NCC1C2=C(CC3=C(N1)C=CC=C3)C=CC=C2 | C15H16N2
